US07825253B2
N2-(5-Methyl-furan-2-ylmethyl)-N5-pyridin-3-yl-quinoline-2,5-diamine
The title compound, MS: m/e=331.3 (M+H+), was prepared from N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine and 3-bromopyridine as described in example 1 step B.

reactant | N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | CC1=CC=C(O1)CNC1=NC=2C=CC=C(C2C=C1)N | C15H15N3O
reactant | 3-bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
product | N2-(5-Methyl-furan-2-ylmethyl)-N5-pyridin-3-yl-quinoline-2,5-diamine | CC1=CC=C(O1)CNC1=NC=2C=CC=C(C2C=C1)NC=1C=NC=CC1 | C20H18N4O
